US07696347B2
(8A-1) 1-(2-Tributylstannylmethoxyethyl)piperidine
To a mixture of 1-piperidinemethanol (1.3 g, 10 mmol) and tetrahydrofuran (30 ml) was added sodium hydride (60%, 418 mg, 10 mmol) at 0° C. (external temperature), followed by stirring at room temperature for 30 minutes. Then, to the reaction mixture was added dropwise a mixture of tributyl-iodomethyl-tin (3.0 g, 7.0 mmol), tetrahydrofuran (5 ml), and N,N-dimethylformamide (30 ml) at 0° C. Then, the reaction mixture was stirred at room temperature for 1 hour. To the reaction mixture were added water and ethyl acetate, and the organic layer was separated. The organic layer was sequentially washed with water and an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=20:1, NH silica gel) to obtain the title compound (2.1 g, 4.9 mmol, 70%).

reactant | 1-piperidinemethanol | 10 mmol, 1.3 g | N1(CCCCC1)CO | C6H13NO
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | 10 mmol, 418 mg | [H-].[Na+]
reactant | tributyl-iodomethyl-tin | 7.0 mmol, 3.0 g | C(CCC)[Sn](CI)(CCCC)CCCC
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(2-Tributylstannylmethoxyethyl)piperidine | 4.9 mmol, 2.1 g, 70% | C(CCC)[Sn](CCCC)(CCCC)COCCN1CCCCC1 | InChI=1S/C8H16NO.3C4H9.Sn/c1-10-8-7-9-5-3-2-4-6-9;3*1-3-4-2;/h1-8H2;3*1,3-4H2,2H3;
